US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-ethoxymethylpiperidine
Sodium hydride (55 mg of 60% dispersion in oil) was washed with i-hexane and treated with tetrahydrofuran (3 ml). [1-(4-Benzenesulfonyl-4-methyl-pentyl)-piperidin-3-yl]-methanol (95 mg, 0.28 mmol) was added and the mixture was stirred at room temperature for 10 min. Ethyl iodide (0.5 ml) was added to the mixture that was stirred for 5 hours. The reaction mixture was quenched with 25% ammonia and extracted into dichloromethane. The combined organic extract were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (dichloromethane:methanol) to give to give the title compound.

reactant | [1-(4-Benzenesulfonyl-4-methyl-pentyl)-piperidin-3-yl]-methanol | 0.28 mmol, 95 mg | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)CO)(C)C | C18H29NO3S
reactant | Ethyl iodide | 0.5 ml | C(C)I | C2H5I
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-ethoxymethylpiperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)COCC)(C)C | C20H33NO3S
